US07175670B2
1.5 g (5.63 mmol) of (2,5-dimethylpyrrolidin-1-yl)-3,5-dinitropyridine, obtained according to Protocol A from 2-chloro-3,5-dinitropyridine and 2,5-dimethylpyrrolidine, were reduced by hydrogen transfer in 50 ml of ethanol in the presence of palladium-on-charcoal and 5 ml of cyclohexene. 900 mg of N-(3,5-diaminopyrid-2-yl)-2,5-dimethylpyrrolidine dihydrochloride were obtained.

reactant | 2-chloro-3,5-dinitropyridine | ClC1=NC=C(C=C1[N+](=O)[O-])[N+](=O)[O-] | C5H2ClN3O4
reactant | 2,5-dimethylpyrrolidine | CC1NC(CC1)C | C6H13N
reactant | hydrogen | [H][H] | H2
reactant | cyclohexene | 5 ml | C1=CCCCC1 | C6H10
solvent | ethanol | 50 ml | C(C)O | C2H6O
catalyst | palladium-on-charcoal | [Pd] | Pd
product | N-(3,5-diaminopyrid-2-yl)-2,5-dimethylpyrrolidine dihydrochloride | 900 mg | Cl.Cl.NC=1C(=NC=C(C1)N)N1C(CCC1C)C | InChI=1S/C11H18N4.2ClH/c1-7-3-4-8(2)15(7)11-10(13)5-9(12)6-14-11;;/h5-8H,3-4,12-13H2,1-2H3;2*1H
